US07816522B2
(135f) {2-(3-dimethylcarbamoylmethoxy-5-ethyl-2-fluorophenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester
After adding 0.163 g of potassium carbonate and 0.14 ml of 2-chloro-N,N-dimethylacetamide to a solution of 0.41 g of {2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 15 ml of DMF, the reaction mixture was stirred at room temperature for 60 hours, and then 200 ml of ethyl acetate and 100 ml of water were added. The organic layer was washed twice with 100 ml of water and once with 100 ml of saturated aqueous sodium chloride in that order, and dried over anhydrous magnesium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (0.41 g) as a light yellow solid.

reactant | potassium carbonate | 0.163 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dimethylacetamide | 0.14 ml | ClCC(=O)N(C)C | C4H8ClNO
reactant | {2-(5-ethyl-2-fluoro-3-hydroxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 0.41 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)CC)O)F)SC)=O | C22H21FN4O4S
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | {2-(3-dimethylcarbamoylmethoxy-5-ethyl-2-fluorophenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 0.41 g | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C(=CC(=C1)CC)OCC(N(C)C)=O)F)SC)=O | C26H28FN5O5S
